US08735387B2
(b) 1-Amino-3-{4-[5-(4-chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-propan-2-ol
5 ml of a 7 N solution of ammonia in methanol were added to 100 mg of crude 5-(4-chloro-benzyl)-2-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-7-propoxy-oxazolo[5,4-d]pyrimidine. The mixture was heated to 60° C. for 6 h. Then the solvent was removed in vacuo and the residue was purified by silica gel chromatography (method SC1) to give 44 mg of the title compound.

reactant | ammonia | N | H3N
reactant | 5-(4-chloro-benzyl)-2-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-7-propoxy-oxazolo[5,4-d]pyrimidine | 100 mg | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)C3=CC(=C(C(=C3)C)OCC3OC3)C)OCCC)C=C1 | C26H26ClN3O4
solvent | methanol | CO | CH4O
product | 1-Amino-3-{4-[5-(4-chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-propan-2-ol | 44 mg | NCC(COC1=C(C=C(C=C1C)C=1OC=2N=C(N=C(C2N1)OCCC)CC1=CC=C(C=C1)Cl)C)O | C26H29ClN4O4
